US08791123B2
A sealed reaction vessel was charged with ((2S,5R)-5-(5-fluoropyridin-3-yl)-2-methylpyrrolidin-2-yl)methanol hydrochloride (0.135 g, 0.547 mmol), ethyl 5-chloropyrazolo[1,5-a]pyrimidine-3-carboxylate (Preparation B, 0.136 g, 0.602 mmol), DIEA (0.124 mL, 0.711 mmol) and isopropyl alcohol (1 mL). The vessel was sealed and the mixture was heated at 190° C. for 48 hours. The reaction was cooled to ambient temperature and concentrated. The residue was purified by reverse phase column chromatography (0-50% acetonitrile/water) to afford ethyl 5-((2S,5R)-5-(5-fluoropyridin-3-yl)-2-(hydroxymethyl)-2-methylpyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate (55 mg, 25% yield) as a viscous clear oil. MS (apci) m/z=400.1 (M+H).

reactant | ((2S,5R)-5-(5-fluoropyridin-3-yl)-2-methylpyrrolidin-2-yl)methanol hydrochloride | 0.547 mmol, 0.135 g | Cl.FC=1C=C(C=NC1)[C@H]1CC[C@@](N1)(C)CO
reactant | ethyl 5-chloropyrazolo[1,5-a]pyrimidine-3-carboxylate | 0.602 mmol, 0.136 g | ClC1=NC=2N(C=C1)N=CC2C(=O)OCC | C9H8ClN3O2
reactant | DIEA | 0.711 mmol, 0.124 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | isopropyl alcohol | 1 mL | C(C)(C)O | C3H8O
product | ethyl 5-((2S,5R)-5-(5-fluoropyridin-3-yl)-2-(hydroxymethyl)-2-methylpyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | 55 mg, 25% yield | FC=1C=C(C=NC1)[C@H]1CC[C@@](N1C1=NC=2N(C=C1)N=CC2C(=O)OCC)(C)CO | C20H22FN5O3
